US03944560
A mixture of 3-chloro-6-(1-cyanoethoxy)-phenol (34.6 g., 0.175 mole), finely powdered anhydrous potassium carbonate (37.2 g., 0.27 mole) and acetone (250 ml.) is stirred under reflux while chloroacetonitrile (9.8 g., 0.13 mole) is added over a period of about 5 minutes. The mixture then is heated under reflux with vigorous stirring for 1.5 hours, whereupon more potassium carbonate (12.5 g., 0.09 mole) and chloroacetonitrile (3.4 g., 0.045 mole) are added. Stirring and heating are continued for 3.5 hours, then the mixture is filtered and the filter-cake washed with acetone. Evaporation of the combined filtrate affords 3-chloro-6-(1-cyanoethoxy)-phenoxyacetonitrile which is recrystallized from aqueous alcohol.

reactant | 3-chloro-6-(1-cyanoethoxy)-phenol | 0.175 mole, 34.6 g | ClC=1C=C(C(=CC1)OC(C)C#N)O | C9H8ClNO2
reactant | potassium carbonate | 0.27 mole, 37.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 0.13 mole, 9.8 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 0.09 mole, 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 0.045 mole, 3.4 g | ClCC#N | C2H2ClN
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 3-chloro-6-(1-cyanoethoxy)-phenoxyacetonitrile | ClC=1C=C(OCC#N)C(=CC1)OC(C)C#N | C11H9ClN2O2
